US05773421
To 1 g of 3,5-di-t-butylbenzoic acid dissolved in THF (10 mL) was added at 25° C. a solution of 1M BH3 ·THF (4 mL), and the mixture was stirred at this temperature for 1.5 hours. The mixture was quenched with 1N NaOH (4 mL) and extracted with ethyl acetate. The combined organic extracts were dried over sodium sulfate and evaporated to give 3, 5-di-t-butylbenzyl alcohol as a clear oil which was used directly in the next step.

reactant | 3,5-di-t-butylbenzoic acid | 1 g | C(C)(C)(C)C=1C=C(C(=O)O)C=C(C1)C(C)(C)C | C15H22O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3, 5-di-t-butylbenzyl alcohol | C(C)(C)(C)C=1C=C(CO)C=C(C1)C(C)(C)C | C15H24O
